US07151196B2
To a mixture of ethyl 5-methoxy-1-oxoindane-2-carboxylate (crude product from the preceding two reactions, ˜190 mmol), K2CO3 (53.8 g, 389 mmol) and KI (64.7 g, 390 mmol) in anhydrous dimethylacetamide (792 mL) was added 1-bromo-2-fluoroethane (18.4 mL, 247 mmol) and the mixture was stirred and heated at 65° C. After 20 hours, analysis of an aliquot by NMR showed the reaction to be complete. After cooling to room temperature, most of the dimethylacetamide was removed by evaporation at reduced pressure. The residue was partitioned between EtOAc and water and the organic phase was washed with water (4 times) and brine and dried over Na2SO4. Filtration and removal of the solvent under reduced pressure gave crude ethyl 2-(2-fluoroethyl)-5-methoxy-1-oxoindane-2-carboxylate which was used in the next step without purification.

reactant | ethyl 5-methoxy-1-oxoindane-2-carboxylate | COC=1C=C2CC(C(C2=CC1)=O)C(=O)OCC | C13H14O4
reactant | K2CO3 | 389 mmol, 53.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 247 mmol, 18.4 mL | BrCCF | C2H4BrF
solvent | dimethylacetamide | 792 mL | CC(=O)N(C)C | C4H9NO
product | ethyl 2-(2-fluoroethyl)-5-methoxy-1-oxoindane-2-carboxylate | FCCC1(C(C2=CC=C(C=C2C1)OC)=O)C(=O)OCC | C15H17FO4
